US07541466B2
Step 1) Preparation of (S)—N-(tert-Butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid(4-pentylphenyl)amide
To a stirred solution of (S)—N-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (10.0 g, 36.1 mmol) and 4-pentylaniline (4.91 g, 30.1 mmol) in chloroform (150 mL) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (6.92 g, 36.1 mmol). The reaction was allowed to proceed overnight and then washed with aqueous sodium bicarbonate solution, dried (sodium sulfate) and concentrated to afford crude product as an off-white, foamy solid. This material was used in the next step without further purification.

reactant | (S)—N-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 36.1 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | 4-pentylaniline | 30.1 mmol, 4.91 g | C(CCCC)C1=CC=C(N)C=C1 | C11H17N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 36.1 mmol, 6.92 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | (S)—N-(tert-Butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid(4-pentylphenyl)amide | C(CCCC)C1=CC=C(C=C1)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C26H34N2O3
